US07781443B2
Morpholine (0.02 ml) is dissolved in N,N-dimethylformamide (2 ml), then thereto is added sodium hydride (9 mg) under ice-cooling, and the mixture is stirred for 30 minutes. (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(bromomethyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (112 mg) is added to the reaction solution under ice-cooling, and the mixture is stirred at room temperature for 1 hour and 30 minutes. A saturated aqueous sodium hydrogen carbonate solution is added to the reaction solution and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=3:1→1:1) to give (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[(morpholin-4-yl)methyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (33 mg). MS (m/z): 683 [M+H]+

reactant | Morpholine | 0.02 ml | N1CCOCC1 | C4H9NO
reactant | sodium hydride | 9 mg | [H-].[Na+]
reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(bromomethyl)pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 112 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CBr)CC | C28H28BrF6N5O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[(morpholin-4-yl)methyl]pyrimidin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 33 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CN1CCOCC1)CC | C32H36F6N6O4
